US07348359B2
To a mixture of 38 mg (0.79 mmol) of NaH in 1 mL of dry DMF was added dropwise a solution of 148 mg (0.66 mmol, 0.13 mL) of triethylphosphonoacetate at 0° C. After 10 minutes, 125 mg of 2-acetyl-7-(2-ethoxy-3,5-diisopropylphenyl)-benzo[b]thiophene (diluted in 2 mL of dry DMF) was added slowly and the mixture is warmed-up to 40° C. After complexion of the reaction (TLC), and work-up, the crude ester was purified over a short pad of silica gel (eluent: ethyl acetate/hexane: 95/5) to afford 87 mg (0.193 mmol, yield=59%) of 3-[7-(2-ethoxy-3,5-diisopropylphenyl)-benzo[b]thien-2-yl]-but-2-enoic acid ethyl ester (ratio E/Z=85/15)1. 1H-NMR (CDCl3), δ: 7.73 (d, J=7.8 Hz, 1H), 7.60 (s, 1H), 7.45 (d, J=1.0 Hz, 1H), 7.43 (t, J=7.9 Hz, 1H), 7.17 (m, 2H), 6.29 (s, 1H), 4.19 (dd, J=14.5, 7.3 z, 2H), 3.44 (dt, J=13.7, 6.9 Hz, 1H), 3.36 (dd, J=14.0, 7.0 Hz, 2H), 2.92 (dt, J=13.7, 6.8 Hz, 1H), 2.66 (s, 3H), 1.28 (m, 12H), 0.90 (t, J=7.0 Hz, 3H).

reactant | NaH | 0.79 mmol, 38 mg | [H-].[Na+]
reactant | 2-acetyl-7-(2-ethoxy-3,5-diisopropylphenyl)-benzo[b]thiophene | 2 mL, 125 mg | C(C)(=O)C1=CC2=C(S1)C(=CC=C2)C2=C(C(=CC(=C2)C(C)C)C(C)C)OCC | C24H28O2S
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 3-[7-(2-ethoxy-3,5-diisopropylphenyl)-benzo[b]thien-2-yl]-but-2-enoic acid ethyl ester | 0.193 mmol, 87 mg, yield=59% | C(C)OC(C=C(C)C1=CC2=C(S1)C(=CC=C2)C2=C(C(=CC(=C2)C(C)C)C(C)C)OCC)=O | C28H34O3S
